.title Integrator 
** This component has two nodes (input and output) and attatches
* itself to global gnd (0)
* NOTE: this component requires "uic" enabled on transient analysis
*                 _______
*                |       |
*   input >------|  1/s  |-----> output
*                |_______|
*
*
*                  ||=======> voltage signal to be integrated
*                  ||    ||=> resulting time-integrated signal
*                  ||    ||         ||=> Initial condition of the output
.subckt INTEGRATOR input output     ic=0
** Place input voltage on Lint and output its current
    Cint       output       gnd         1
    Bint       output       gnd         i=-v(input)
    .ic v(output) = ic
.ends


